US09193719B2
6-(2-(Diphenylmethylene)hydrazinyl)-2-methyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridine (9.3 g, 20.19 mmol) was dissolved in toluene (497 mL). Concentrated HCl (134 mL, 1608 mmol) was added and the reaction mixture was stirred for 1.5 h at 110° C., allowed to cool to RT, and stirred for 10 h. The organic phase was removed and the aqueous phase was extracted with toluene (1×100 mL). The combined organics were back extracted with 1 N HCl (1×100 mL). The combined aqueous phases were adjusted to pH ˜11 with 50% NaOH (aq), saturated with solid NaCl, and extracted with EtOAc (3×200 mL). The combined organics were dried (Na2SO4) and concentrated in vacuo to afford 6-hydrazinyl-2-methyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridine (4.7 g, 79%) as a tan solid. 1H NMR (400 MHz, DMSO-d6): δ 8.31 (d, J=5.7 Hz, 1H), 8.22 (s, 1H), 7.92 (s, 1H), 7.44 (s, 1H), 7.28 (d, J=8.8 Hz, 1H), 7.11 (d, J=2.4 Hz, 1H), 6.64 (d, J=8.8 Hz, 1H), 6.49 (dd, J=5.7, 2.4 Hz, 1H), 4.14 (s, 2H), 3.84 (s, 3H), 2.11 (s, 3H); MS (ESI) m/z: 297.1 (M+H+).

reactant | 6-(2-(Diphenylmethylene)hydrazinyl)-2-methyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridine | 20.19 mmol, 9.3 g | C1(=CC=CC=C1)C(=NNC1=CC=C(C(=N1)C)OC1=CC(=NC=C1)C=1C=NN(C1)C)C1=CC=CC=C1 | C28H24N6O
reactant | HCl | 1608 mmol, 134 mL | Cl | ClH
solvent | toluene | 497 mL | C1(=CC=CC=C1)C | C7H8
product | 6-hydrazinyl-2-methyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridine | 4.7 g, 79% | N(N)C1=CC=C(C(=N1)C)OC1=CC(=NC=C1)C=1C=NN(C1)C | C15H16N6O
